US09382238B2
To a mixture of 1-(bromomethyl)-2-(trifluoromethyl)benzene (0.5 g, 2.092 mmol) in DMSO (10 mL) was added ethyl 2,2-difluoro-2-iodoacetate (0.410 mL, 2.000 mmol) and copper (0.439 g, 6.90 mmol) at rt. The mixture was stirred at 20° C. for 10 h. The mixture was extracted with EA, washed with brine, and the organic layer was concentrated to give ethyl 2,2-difluoro-3-(2-(trifluoromethyl)phenyl)propanoate (320 mg, 0.981 mmol, 46.9% yield): 1H NMR (400 MHz, CD3OD-d4) δ 7.72 (d, J=7.8 Hz, 1H), 7.60-7.45 (m, 3H), 4.26 (d, J=7.1 Hz, 2H), 3.63 (t, J=16.9 Hz, 2H), 1.24 (t, J=7.2 Hz, 3H).

reactant | 1-(bromomethyl)-2-(trifluoromethyl)benzene | 2.092 mmol, 0.5 g | BrCC1=C(C=CC=C1)C(F)(F)F | C8H6BrF3
reactant | ethyl 2,2-difluoro-2-iodoacetate | 2.000 mmol, 0.410 mL | FC(C(=O)OCC)(I)F | C4H5F2IO2
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
catalyst | copper | 6.90 mmol, 0.439 g | [Cu] | Cu
product | ethyl 2,2-difluoro-3-(2-(trifluoromethyl)phenyl)propanoate | 0.981 mmol, 320 mg, 46.9% yield | FC(C(=O)OCC)(CC1=C(C=CC=C1)C(F)(F)F)F | C12H11F5O2
